US04094995
Ethyl 3-methylthio-4-cyclohexylphenylglyoxylate
When an equimolar amount of acetyl chloride is used in place of dimethyl sulfate in the above reaction, then the product prepared is ethyl 3-acetylthio-4-cyclohexylphenylglyoxylate.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | ethyl 3-acetylthio-4-cyclohexylphenylglyoxylate | C(C)(=O)SC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C18H22O4S
product | Ethyl 3-methylthio-4-cyclohexylphenylglyoxylate | CSC=1C=C(C=CC1C1CCCCC1)C(C(=O)OCC)=O | C17H22O3S
